US09334290B2
A mixture of N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-(thiazol-2-yl)acetamide (0.45 g, 1.26 mmol) and CDI (0.815 g, 5.02 mmol) in toluene (6.5 mL) was heated at 110° C. for 2 h. The cooled mixture was partitioned between EtOAc and water. The organic layer was washed with brine, and the combined aqueous layers were extracted with EtOAc. The combined organic layers were dried and concentrated. The residue was purified by column chromatography on silica gel (40 g), eluting with 70% EtOAc-hexanes, to give slightly impure 6-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione as a tan solid (34% yield). The material was used without further purification. Mass spectrum m/z 385 (M+H)+.

reactant | N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-(thiazol-2-yl)acetamide | 1.26 mmol, 0.45 g | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)NC(CC=1SC=CN1)=O | C18H23BN2O3S
reactant | CDI | 5.02 mmol, 0.815 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | toluene | 6.5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione | 34% yield | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N1C(N2C(=CC1=O)SC=C2)=O | C19H21BN2O4S
